US07494642B2
The resulting compound, 1-benzyloxy-6-tetradecanol (16 g), was hydrogenated overnight using 100 mg of 10% palladium on activated carbon (Degussa AG; Frankfurt, Germany) in 100 ml of methanol to yield 1,6-tetradecandiol (11.1 g, 4.85 mmol). This diol compound, in 100 ml of methylene:pyridine (9:1), was treated with trityl chloride (13.5 g, 4.85 mmol). The mixture was stirred for 4 hours, then washed with ice-cold 10% HCl until the aqueous phase was acidic. Washing in brine then followed this until the aqueous phase was neutral. Solvent removal and chromatography on silica gel in hexane:ethylacetate (80:20) of the oil gave 20.1 g (87%) of the trityl alcohol. The chemical shift of the compound, detected by 1H-NMR, was as follows: 1H-NMR (CDCl3) δ 0.89 (t, 3H, CH3), 1.2-1.7 (m, 22H, CH2), 3.05 (m, 2H, CH2O), 3.55 (m, 1H, CH—O), 3.55 (m, 1H, CH—O), 7.2-7.5 (m, 15H, benzyl).

reactant | 1-benzyloxy-6-tetradecanol | 16 g | C(C1=CC=CC=C1)OCCCCCC(CCCCCCCC)O | C21H36O2
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 1,6-tetradecandiol | 4.85 mmol, 11.1 g | C(CCCCC(CCCCCCCC)O)O | C14H30O2
